* C:\Users\conor\Documents\College\Masters\Thesis\GeecPE2526\Simulation\Draft5.asc
* Generated by LTspice 24.1.8 for Windows.
V1 N001 0 PULSE(0 20 0 10n 10n 20u 0.0000714286)
L1 N002 N003 70µ Rser=0.159
R1 N003 0 10
R2 N001 N002 1m
.tran 1m startup uic
.backanno
.end
