* E:\Documents\Masters\Project\Simulation\Draft7.asc
* Generated by LTspice 24.1.9 for Windows.
V1 In 0 PULSE(0 3.3 0 1m 1m 100m 500m)
V2 N002 0 5V
M1 Out N001 In In BSS123
R1 N002 Out 10k
V3 N001 0 3.3
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\conor\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
.backanno
.end
