* C:\Users\conor\Documents\College\Masters\Thesis\GeecPE2526\Simulation\LogicTranslator.asc
* Generated by LTspice 24.1.8 for Windows.
M1 Vout N002 vin vin BS170
R1 N001 Vout 10k
V1 vin 0 PULSE(0 3.3 0 10n 10n 100m 200m)
V2 N002 0 3.3
V3 N001 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\conor\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
.backanno
.end
